US07842696B2
DIPEA (223 mg, 0.3 mL, 1.72 mmol) was added to a stirred solution of 1-phenyl-1H-pyrazole-4-carboxylic acid (65 mg, 0.34 mmol) in DMF (5 mL). HOBT (51 mg, 0.38 mmol) and EDCI (165 mg, 0.86 mmol) were then added at room temperature. After 2 minutes, 2-amino-1-[4-(2-trifluoromethyl-benzoyl)-piperazin-1-yl]-ethanone hydrochloride salt (133 mg, 0.38 mmol) was added and the resulting mixture was stirred at room temperature overnight. Cold water was then added and filtered the solid precipitated out to afford 41 mg (24.55% yield) of 1-phenyl-1H-pyrazole-4-carboxylic acid {2-oxo-2-[4-(2-trifluoromethyl-benzoyl)-piperazin-1-yl]-ethyl}-amide. LCMS Purity: 95.62%. 1H NMR (DMSO-d6): δ 9.0 (s, 1H), 8.4 (s, 1H), 8.2 (s, 1H), 7.9-7.74 (m, 4H), 7.7 (t, 1H), 7.6 (t, 3H), 7.4 (t, 1H), 4.24 (d, 2H), 3.8 (s, 1H), 3.66 (s, 3H), δ 3.5 (s, 2H), 3.2 (d, 2H).

reactant | DIPEA | 1.72 mmol, 0.3 mL, 223 mg | CCN(C(C)C)C(C)C | C8H19N
reactant | 1-phenyl-1H-pyrazole-4-carboxylic acid | 0.34 mmol, 65 mg | C1(=CC=CC=C1)N1N=CC(=C1)C(=O)O | C10H8N2O2
reactant | HOBT | 0.38 mmol, 51 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDCI | 0.86 mmol, 165 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | 2-amino-1-[4-(2-trifluoromethyl-benzoyl)-piperazin-1-yl]-ethanone hydrochloride salt | 0.38 mmol, 133 mg | Cl.NCC(=O)N1CCN(CC1)C(C1=C(C=CC=C1)C(F)(F)F)=O
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 1-phenyl-1H-pyrazole-4-carboxylic acid {2-oxo-2-[4-(2-trifluoromethyl-benzoyl)-piperazin-1-yl]-ethyl}-amide | 41 mg, 24.55% yield | O=C(CNC(=O)C=1C=NN(C1)C1=CC=CC=C1)N1CCN(CC1)C(C1=C(C=CC=C1)C(F)(F)F)=O | C24H22F3N5O3
